US06207825B1
There were mixed 1.31 g of 1-(4-bromophenyl)-3-methylene-2-pyrrolidinone, 2.00 g of 4-(2-methoxyphenyl)piperazine and 5 ml of pyrrolidine. The mixture was refluxed for 1 hour and then cooled. Thereto was added water. The mixture was subjected to extraction with ethyl acetate twice. The organic layer was dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography using a mixed solvent of chloroform/methanol=40/1 to obtain 1.79 g of 1-(4-bromophenyl)-3-pyrrolidinomethyl-2-pyrrolidinone.

reactant | 1-(4-bromophenyl)-3-methylene-2-pyrrolidinone | 1.31 g | BrC1=CC=C(C=C1)N1C(C(CC1)=C)=O | C11H10BrNO
reactant | 4-(2-methoxyphenyl)piperazine | 2.00 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | pyrrolidine | 5 ml | N1CCCC1 | C4H9N
solvent | water | O | H2O
product | 1-(4-bromophenyl)-3-pyrrolidinomethyl-2-pyrrolidinone | 1.79 g | BrC1=CC=C(C=C1)N1C(C(CC1)CN1CCCC1)=O | C15H19BrN2O
